US07585885B2
2-(R)-(2-(S)-Dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-5,5-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester
Add sec-butyllithium (2.9 mL, 2.1 mmol) dropwise to a solution of freshly distilled (−)-sparteine (1 mL, 4.3 mmol) in diethyl ether (25 mL) over 3 min at −78° C. Add 2,2-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester (645 mg, 3.2 mmol) in diethyl ether (2 mL) dropwise over 10 min. Stir 2 h, add 2-(S)-dibenzylamino-3-phenylpropionaldehyde (967 mg, 2.9 mmol) in diethyl ether (2 mL) over 5 min and stir 20 min. Add saturated aqueous ammonium chloride solution and ethyl acetate and let warm to room temperature, separate the layers, extract the aqueous layer with ethyl acetate, wash the organic layer with saturated aqueous sodium chloride solution, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 4:1 hexanes:ethyl acetate) to give the title compound as a colorless oil (182 mg, 12%).

reactant | sec-butyllithium | 2.1 mmol, 2.9 mL | C(C)(CC)[Li]
reactant | (−)-sparteine | 4.3 mmol, 1 mL | C1CCN2C[C@@H]3C[C@H]([C@H]2C1)CN4[C@H]3CCCC4 | C15H26N2
reactant | 2,2-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester | 3.2 mmol, 645 mg | C(C)(C)(C)OC(=O)N1C(CCC1)(C)C | C11H21NO2
reactant | 2-(S)-dibenzylamino-3-phenylpropionaldehyde | 2.9 mmol, 967 mg | C(C1=CC=CC=C1)N([C@H](C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(R)-(2-(S)-Dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-5,5-dimethylpyrrolidine-1-carboxylic acid tert-butyl ester | 182 mg, 12% | C(C)(C)(C)OC(=O)N1[C@H](CCC1(C)C)[C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C34H44N2O3
